US04116671
To a solution of methyl 5-t-butyl-3-isoxazolylcarbamate (2.00 g) and anhydrous sodium acetate (1.1 mol equivalent) in glacial acetic acid (5 ml), bromine (1.0 mol equivalent) is added. The resultant mixture is heated at 50° C for 53 hours and mixed with glacial acetic acid (5 ml), anhydrous sodium acetate (0.91 g) and bromine (0.81 g). The mixture is heated at 70° C for 31 hours, mixed with several drops of formic acid, poured onto ice water (50 ml) and shaken with methylene chloride. The organic layer is washed with a saturated aqueous solution of sodium bicarbonate and water in order and evaporated under reduced pressure to remove the solvent, whereby methyl 4-bromo-5-t-butyl-3-isoxazolylcarbamate (2.77 g) is obtained as an oil. I.R.: 1774, 1203 cm-1 (CCl4).

reactant | methyl 5-t-butyl-3-isoxazolylcarbamate | 2.00 g | C(C)(C)(C)C1=CC(=NO1)NC(OC)=O | C9H14N2O3
reactant | sodium acetate | 1.1 mol | C(C)(=O)[O-].[Na+]
reactant | bromine | 1.0 mol | BrBr | Br2
reactant | sodium acetate | 0.91 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.81 g | BrBr | Br2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | formic acid | several drops | C(=O)O | CH2O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | methyl 4-bromo-5-t-butyl-3-isoxazolylcarbamate | 2.77 g | BrC=1C(=NOC1C(C)(C)C)NC(OC)=O | C9H13BrN2O3
